US04337201
1-[[[(2,2-Dimethyl-1-oxopropoxy)methoxy](4-phenylbutyl)phosphinyl]acetyl]-L-proline, benzyl ester
Triethylamine (1.9 ml) and chloromethyl pivalate (2.0 ml) are added to a solution of 3.0 g of [[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, benzyl ester in dimethylformamide under an argon atmosphere and the resulting mixture is stirred at room temperature for 6 hours. The reaction mixture is diluted with ethyl acetate, washed with water, brine, dried (MgSO4), and evaporated. The crude product (3.7 g) is chromatographed on silica (80 g) eluting with ethyl acetate/dichloromethane to give 2.96 g of the title compound.

reactant | Triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | chloromethyl pivalate | 2.0 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | [[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, benzyl ester | 3.0 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C24H30NO5P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[[[(2,2-Dimethyl-1-oxopropoxy)methoxy](4-phenylbutyl)phosphinyl]acetyl]-L-proline, benzyl ester | 2.96 g | CC(C(OCOP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)=O)(C)C | C30H40NO7P
